US05703266
Preparation of 3-cyanomethyl p-aminophenol
A suspension of 5.4 g of 2-nitro 5-benzyloxyphenylacetonitrile, 5.4 ml of cyclohexene, 22 ml of ethanol and 3 g of 10% palladium on activated charcoal was refluxed for five hours. The suspension was then hot filtered and the filtrate evaporated. The residue was recrystallised from ethanol to produce dark beige crystals.

reactant | 2-nitro 5-benzyloxyphenylacetonitrile | 5.4 g | [N+](=O)([O-])C1=C(C=C(C=C1)OCC1=CC=CC=C1)CC#N | C15H12N2O3
reactant | cyclohexene | 5.4 ml | C1=CCCCC1 | C6H10
catalyst | palladium on activated charcoal | 3 g | [Pd] | Pd
solvent | ethanol | 22 ml | C(C)O | C2H6O
product | 3-cyanomethyl p-aminophenol | C(#N)CC=1C=C(C=CC1N)O | C8H8N2O
